US06887877B2
Step I 2-(4-Bromo-phenylamino)-3-phenyl-propionic acid tert-butyl ester
A mixture of L-phenylalanine tert-butyl ester (1.47 g, 6.64 mmol), 4-bromophenylboronic acid (2.67 g, 13.28 mmol), triethylamine (1.9 mL, 13.28 mmol) and copper (II) acetate (1.21 g, 6.64 mmol) in dichloromethane (50 mL) was stirred at room temperature for 24 h. The solids were removed by filtration through a pad of silica gel and the desired product was obtained by chromatography eluting with 5% ethyl acetate in hexanes. 1H NMR (CDCl3)7.2 (m, 8 H), 6.48 (d, 2 H), 4.18 (t, 2 H, H-2 and NH), 3.08 (d, 2 H), 1.35 (s, 9 H)

reactant | L-phenylalanine tert-butyl ester | 6.64 mmol, 1.47 g | C(C)(C)(C)OC([C@@H](N)CC1=CC=CC=C1)=O | C13H19NO2
reactant | 4-bromophenylboronic acid | 13.28 mmol, 2.67 g | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
reactant | triethylamine | 13.28 mmol, 1.9 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | copper (II) acetate | 6.64 mmol, 1.21 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 2-(4-Bromo-phenylamino)-3-phenyl-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(CC1=CC=CC=C1)NC1=CC=C(C=C1)Br)=O | C19H22BrNO2
